US05506219
A solution of 3-(2,2-Dibromoethenyl)-2-(4fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine (2.677 gm, 5.63 mmol) in dry THF (25 ml) was cooled to -78° C. and treated with n-BuLi (1.6M in hexane, 7.75 ml, 12.4 mmol) over a 1 minute period. After stirring at -78° C. for one hours, the deep green solution was quenched with saturated NH4Cl, warmed to room temperature, diluted with H2O, and extracted once with Et2O. The Et2O extract was washed with brine, dried (Na2SO4), filtered and stripped to give a yellow solid. The solid was recrystallized from a minimum amount of hot hexane to afford analytically pure 3-Ethynyl-2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine as yellow crystals (1.572 gm, 89%).

reactant | 3-(2,2-Dibromoethenyl)-2-(4fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine | 5.63 mmol, 2.677 gm | BrC(=CC=1C(=NC(=CC1C(C)C)C1=CC=CC=C1)C1=CC=C(C=C1)F)Br | C22H18Br2FN
reactant | n-BuLi | 12.4 mmol, 1.6M, 7.75 ml | [Li]CCCC
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-Ethynyl-2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine | 1.572 gm, 89% | C(#C)C=1C(=NC(=CC1C(C)C)C1=CC=CC=C1)C1=CC=C(C=C1)F | C22H18FN
